US04426522
Into a 50 ml round bottomed flask equipped with a calcium chloride drying tube and a magnetic stirrer were placed 5 ml of dry pyridine and 1 g of 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5 dione. The mixture was then stirred and cooled in an ice bath, 0.5 g of methanesulfonyl chloride was added dropwise. After the product had been added the mixture was brought to ambient temperature and stirred for 5 hours. The solvent was then removed in vacuum and the residue was neutralized with dilute hydrochloric acid. The crystals obtained were filtered off and recrystallized from alcohol to yield 0.8 g of 1-methane sulfonyl-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione; m.p. 145°.

reactant | 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5 dione | 1 g | ClC1=CC=C(CN2NCC(NC2=O)=O)C=C1 | C10H10ClN3O2
reactant | methanesulfonyl chloride | 0.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-methane sulfonyl-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 0.8 g | CS(=O)(=O)N1N(C(NC(C1)=O)=O)CC1=CC=C(C=C1)Cl | C11H12ClN3O4S
